US07645771B2
To a −78° C. solution of methyl 3-amino-2,2-dimethylpropanoate (318 mg, 2.4 mmol) and Et3N (0.34 mL, 2.44 mmol) in 4 mL CH2Cl2 was added trifluoromethanesulfonic anhydride (0.81 mL, 4.84 mmol). The reaction was stirred for 4 h below −40° C. and quenched with saturated aqueous NaHCO3. The crude methyl 2,2-dimethyl-3-{[(trifluoromethyl)sulfonyl]amino}propanoate was isolated and hydrolyzed using aqueous NaOH to provide 2,2-dimethyl-3-{[(trifluoromethyl)sulfonyl]amino}propanoic acid which was used without further purification.

reactant | methyl 3-amino-2,2-dimethylpropanoate | 2.4 mmol, 318 mg | NCC(C(=O)OC)(C)C | C6H13NO2
reactant | Et3N | 2.44 mmol, 0.34 mL | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 4.84 mmol, 0.81 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | methyl 2,2-dimethyl-3-{[(trifluoromethyl)sulfonyl]amino}propanoate | CC(C(=O)OC)(CNS(=O)(=O)C(F)(F)F)C | C7H12F3NO4S
